US04963547
1-[(4-Chlorophenyl)thio]-2-propanone (50 g, 0.25 mol) was added to polyphosphoric acid (300 g) and the mixture was stirred as the temperature was gradually raised to 120° C. as an exotherm started. The mixture was stirred at 130° C. for 1 hour, diluted with water, extracted with ethyl ether and the organic phase was dried and concentrated. The residue was stirred in methanol (200 ml), filtered and the filtrate concentrated to give 17.5 g (40%) of 5-chloro-3-methylbenzo[b]thiophene: bp 120° C. (0.6 mm).

reactant | 1-[(4-Chlorophenyl)thio]-2-propanone | 0.25 mol, 50 g | ClC1=CC=C(C=C1)SCC(C)=O | C9H9ClOS
solvent | water | O | H2O
product | 5-chloro-3-methylbenzo[b]thiophene | 17.5 g, 40% | ClC1=CC2=C(SC=C2C)C=C1 | C9H7ClS
